US07691882B2
3-Fluoro-4-(pyridin-2-ylmethoxy)-benzaldehyde
To an N,N-dimethylformamide (40.0 mL) solution of 2-(hydroxymethyl)-pyridine (3.00 g, 27.5 mmol) was added sodium hydride (1.00 g, 25.0 mmol, 60% in oil) under nitrogen atmosphere at 0° C., which was stirred for 20 minutes at room temperature. 3,4-Difluorobenzaldehyde (4.69 g, 33.0 mmol) was then added at 0° C., and stirred for 20 minutes at room temperature. Water was added to the reaction solution at room temperature, which was then extracted with ethyl acetate. The organic layer was washed with saturated aqueous sodium chloride, and the solvent was evaporated under a reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate:heptane=1:1→2:1) to obtain the title compound (2.90 g, 45.6%).

reactant | N,N-dimethylformamide | 40.0 mL | CN(C=O)C | C3H7NO
reactant | 2-(hydroxymethyl)-pyridine | 27.5 mmol, 3.00 g | OCC1=NC=CC=C1 | C6H7NO
reactant | sodium hydride | 25.0 mmol, 1.00 g | [H-].[Na+]
reactant | 3,4-Difluorobenzaldehyde | 33.0 mmol, 4.69 g | FC=1C=C(C=O)C=CC1F | C7H4F2O
solvent | Water | O | H2O
product | 3-Fluoro-4-(pyridin-2-ylmethoxy)-benzaldehyde | 2.90 g, 45.6% | FC=1C=C(C=O)C=CC1OCC1=NC=CC=C1 | C13H10FNO2
